US05112998
In 10 ml of dimethyl carbonate was dissolved 400 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-6-en-5α-ol, followed by addition of 0.2 ml of acetic acid. The mixture was refluxed in an atmosphere of argon gas for 12 hours. The reaction mixture was then worked up in the same manner as Example 132 to give 120 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxypregn-6-en-5α-ol | 400 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)O[Si](C)(C)C(C)(C)C)O)C | C35H62O6Si
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | dimethyl carbonate | 10 ml | C(OC)(OC)=O | C3H6O3
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-3β-(tert-butyldimethylsilyl)oxy-1α-(methoxymethyl)oxy-7α-(methoxycarbonyl)oxypregn-5-ene | 120 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3[C@@H](C=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OCOC)O[Si](C)(C)C(C)(C)C)OC(=O)OC)C | C37H64O8Si
